preamp guitar 2


.include ../../../spice/LM741.MOD

vin   in1   0     sin(0 0.01 440 0 0)
rin   in1   in    10
vp    p     0     dc 4.5v
vn    n     0     dc  -4.5v


r1    1     0     1meg
r2    2     out   100k
r3    2     3     10k
r4    out2  0     10k


c1    in    1     47n
c2    3     0     4.7u
c3    out   out2  10u

X1    1     2    p   n    out    LM741/NS    

