preamp guitar pedal shield


.include ../../../spice/LM741.MOD

vin   in1   0     sin(0 0.02 5000 0 0)
rin   in1   in    50k
vp    p     0     dc 5v
vn    p2    0     dc  2.5v


r1    in    0     1meg
r2    1     p2    1meg
r3    1     2     4.7k
r4    5     3     2.2k
r5    3     4     100k
r6    4     out   4.7k

c1    in    1     0.1u
c2    2     0     0.1n
c3    5     0     4.7u
c4    out   0     0.1n

X1    2     3    p   0    4    LM741/NS    

